US04762777
Step 1: 2,2-bis-acetoxymethyl propionic acid
268 g (2 moles) of 2,2-bis-hydroxymethyl propionic acid are refluxed for 10 hours in 800 ml of glacial acetic acid and 416 ml (4.4 moles) of acetic acid anhydride. The reaction solution is freed from the solvent in vacuo. The oily residue is stirred with 1500 ml of petroleum ether, the carboxylic acid ester is crystallizing out. It is filtered off under suction and washed with petroleum ether. Yield 420 g (96% of the theoretical); Mp. 85° C.

reactant | 2,2-bis-hydroxymethyl propionic acid | 2 moles, 268 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | acetic acid anhydride | 4.4 moles, 416 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 2,2-bis-acetoxymethyl propionic acid | C(C)(=O)OCC(C(=O)O)(C)COC(C)=O | C9H14O6
